US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.50, 7.34, 5.30, 4.53, 2.68, 2.62, 2.51, 2.09, 1.94 1.26, 1.20; HRMS (EI) calcd for C22H23Cl2N3O 415.1218, found 415.1217.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C1C=CO2 | C16H21N3O
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCCC2=C1C=CO2)CC | C22H23Cl2N3O
